US06809092B2
(3S)-1-bromo-3-(t-butoxycarbonylamino)-5-methyl-2-hexanone
Under atmosphere of argon, to a solution of (2S)-2-(t-butoxycarbonylamino)-4-methylpentanoic acid (t-butoxycarbonyl-L-leucine) (37.4 g) in tetrahydrofuran (800 ml) was added N-methylmorpholine (33 ml) at −25° C. and the mixture was stirred for 10 minutes. To the mixture was added chloroethylformate (15.8 ml) and the mixture was stirred for 20 minutes. Thereto was added a solution of diazomethane in diethyl ether and the mixture was stirred for another 2 hours. Thereto was added a mixture of 47% hydrobromic acid-acetic acid (1:1) at 0° C. and the mixture was stirred for 15 minutes. To the reaction mixture was added water and was extracted with a mixture of ethyl acetate-hexane. The organic layer was washed with a saturated aqueous solution of sodium bicarbonate and a saturated aqueous solution of sodium chloride successively, dried over anhydrous sodium sulfate and was concentrated. The residue was washed with cooled hexane to give the title compound (27.4 g) having the following physical data.

reactant | (2S)-2-(t-butoxycarbonylamino)-4-methylpentanoic acid | 37.4 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC(C)C | C11H21NO4
reactant | N-methylmorpholine | 33 ml | CN1CCOCC1 | C5H11NO
reactant | chloroethylformate | 15.8 ml | ClCCOC=O | C3H5ClO2
reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | hydrobromic acid acetic acid | Br.C(C)(=O)O
solvent | tetrahydrofuran | 800 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | water | O | H2O
product | (3S)-1-bromo-3-(t-butoxycarbonylamino)-5-methyl-2-hexanone | 27.4 g | BrCC([C@H](CC(C)C)NC(=O)OC(C)(C)C)=O | C12H22BrNO3
